US08497264B2
A microwave vial was charged with (S)-7-bromo-3-methoxy-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.075 g, 0.199 mmol). 3,4-difluorophenylboronic acid (0.063 g, 0.399 mmol), potassium phosphate (0.127 g, 0.598 mmol), and bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (7.06 mg, 9.97 μmol) were added. The vial was flushed with Ar (g), then dioxane (0.748 mL) and water (0.249 mL) were added in sequence. The vial was sealed and heated in a Biotage Initiator microwave reactor for 30 min at 100° C. The reaction was diluted with ethyl acetate and washed with water. The aqueous layer was extracted with ethyl acetate, and the combined organic layers were washed with brine, dried with sodium sulfate, filtered, and concentrated. The material was purified via column chromatography (0-100% EtOAc/Hexanes) to afford (S)-7-(3,4-difluorophenyl)-3-methoxy-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.073 g, 0.178 mmol, 89% yield) as an off-white solid. [M+H]+=410.4

reactant | (S)-7-bromo-3-methoxy-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.199 mmol, 0.075 g | BrC=1C=C2C(=CC1)OC=1C=NC(=CC1[C@]21COCC(=N1)N)OC | C16H14BrN3O3
reactant | 3,4-difluorophenylboronic acid | 0.399 mmol, 0.063 g | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | potassium phosphate | 0.598 mmol, 0.127 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 9.97 μmol, 7.06 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (S)-7-(3,4-difluorophenyl)-3-methoxy-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.178 mmol, 0.073 g, 89% yield | FC=1C=C(C=CC1F)C=1C=C2C(=CC1)OC=1C=NC(=CC1[C@]21COCC(=N1)N)OC | C22H17F2N3O3
